US08202868B2
a.2.4: 2-tert-Butyl-4-(piperazin-1-yl)-6-cyclopropyl-pyrimidine
25.1 g of piperazine (291.4 mmol) were dissolved in 100 ml of ethanol and heated to 50° C. 17 g of 2-tert-butyl-4-chloro-6-cyclopropyl-pyrimidine (81 mmol), dissolved in 100 ml of ethanol, were added dropwise within 2 h. After heating to reflux at 70° C. for 5 h the reaction mixture was stirred at room temperature overnight. The ethanol was evaporated and the residue suspended in 200 ml of water. The aqueous phase was extracted 4 times with 100 ml of dichloromethane each. Drying over magnesium sulfate, filtration, and evaporation to dryness gave 19.2 g (90.9%) of the title compound.

reactant | piperazine | 291.4 mmol, 25.1 g | N1CCNCC1 | C4H10N2
reactant | 2-tert-butyl-4-chloro-6-cyclopropyl-pyrimidine | 81 mmol, 17 g | C(C)(C)(C)C1=NC(=CC(=N1)Cl)C1CC1 | C11H15ClN2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-tert-Butyl-4-(piperazin-1-yl)-6-cyclopropyl-pyrimidine | 19.2 g, 90.9% | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CC1 | C15H24N4
